US04052455
Reaction of actamidine with 3,4-dichlorostyrylsulfonyl chloride according to the above procedure affords N-[(3,4-DICHLOROSTYRYL)SULFONYL]ACETAMIDINE, m.p. 197.5°-198.5° C. (corr.), crystallized from acetone-isopropanol.

reactant | actamidine | C(C)(=N)N | C2H6N2
reactant | 3,4-dichlorostyrylsulfonyl chloride | ClC=1C=C(C=CS(=O)(=O)Cl)C=CC1Cl | C8H5Cl3O2S
product | N-[(3,4-DICHLOROSTYRYL)SULFONYL]ACETAMIDINE | ClC=1C=C(C=CS(=O)(=O)NC(C)=N)C=CC1Cl | C10H10Cl2N2O2S
